US07365085B2
b) 4-(3-{3-[(2-chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-phenyl)-piperazine-1-carboxylic acid tert-butyl ester
To a stirring solution of 3-[(2-chloro-3-trifluoromethyl-benzyl)-(2,2-diphenyl-ethyl)-amino]-propan-1-ol (448 mg, 1.0 mmol) in toluene (30 mL) was added 4-(3-hydroxy-phenyl)-piperazine-1-carboxylic acid tert-butyl ester (419 mg, 1.50 mmol). Polymer bound triphenylphosphine (500 mg, 1.50 mmol, 3 mmol/g, Fluka Chemie) was then added, and the mixture stirred for 15 minutes. The reaction mixture was then cooled to 0° C. and diisopropylazodicarboxylate (303 mg, 1.50 mmol) was added in a dropwise fashion. After stirring at room temperature overnight, the crude reaction mixture was filtered and the solid washed with toluene. Concentration of the filtrate in vacuo followed by purification by flash silica gel chromatography (silica gel 60, EM science; 15% EtOAc:hexane) afforded title compound as an oil (0.59 g, 84%). MS(ES) m/e 708.4 (M+).

reactant | 3-[(2-chloro-3-trifluoromethyl-benzyl)-(2,2-diphenyl-ethyl)-amino]-propan-1-ol | 1.0 mmol, 448 mg | ClC1=C(CN(CCCO)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1C(F)(F)F | C25H25ClF3NO
reactant | 4-(3-hydroxy-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 1.50 mmol, 419 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=CC=C1)O | C15H22N2O3
reactant | triphenylphosphine | 1.50 mmol, 500 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 1.50 mmol, 303 mg | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(3-{3-[(2-chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 0.59 g, 84% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=CC=C1)OCCCN(CC(C1=CC=CC=C1)C1=CC=CC=C1)CC1=C(C(=CC=C1)C(F)(F)F)Cl | C40H45ClF3N3O3
